US05554607
3-(2-Ethylphenyl)-isopropyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 45 using 16.3 g of 2-ethylphenyl-isothiocyanate, 21.2 g of N-isopropyl glycine, 21.0 g of triethyl amine, and 300 mL of chloroform. Crystallization from diethyl ether afforded the title compound (6.8 g) as a white solid, m.p. 103°-105° C. Anal. Calcd. for. C14H18N2O S: C, 64.09; H, 6.92; N, 10.68. Found: C, 64.08; H, 6.92; N, 10.62. Mass spectrum (EI, M.+) m/z 262.

reactant | 2-ethylphenyl-isothiocyanate | 16.3 g | C(C)C1=C(C=CC=C1)N=C=S | C9H9NS
reactant | N-isopropyl glycine | 21.2 g | C(C)(C)NCC(=O)O | C5H11NO2
reactant | triethyl amine | 21.0 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-Ethylphenyl)-isopropyl-2-thioxo-imidazolidin-4-one | 6.8 g | C(C)C1=C(C=CC=C1)N1C(N(CC1=O)C(C)C)=S | C14H18N2OS
